US04791220
(a) Preparation of methyl 3-morpholinovalerate
A mixture of 171 g of methyl 2-trans-pentenoate and 130.5 g of morpholine was heated for 46 hours at 100° C. After distillation of the reaction mixture over a Vigreux column, 179 g (59% of theory) of methyl 3-morpholinovalerate of boiling point 85° C./0.4 mbar, nD20 =1.4610, were obtained.

reactant | methyl 2-trans-pentenoate | 171 g | C(\C=C\CC)(=O)OC | C6H10O2
reactant | morpholine | 130.5 g | N1CCOCC1 | C4H9NO
product | methyl 3-morpholinovalerate | O1CCN(CC1)C(CC(=O)OC)CC | C10H19NO3
